US07144876B2
4-({2-Chloro-5-[5-(3-chlorothiophen-2-yl)-[1,2,4]oxadiazol-3-yl]-phenyl}-methyl-amino)-butyric acid
A solution of LiOH (0.280 g, 6.66 mmol) in H2O (6.0 mL) was added over 1 minute to a solution of 4-({2-chloro-5-[5-(3-chlorothiophen-2-yl)-[1,2,4]oxadiazol-3-yl]-phenyl}-methyl-amino)-butyric acid methyl ester (2.03 g, 4.76 mmol) in THF (55.0 mL) at 0° C. The ice bath was removed and the solution was allowed to equilibrate to room temperature at which point THF (20.0 mL) was added. The resulting suspension was stirred for 21 h and then EtOH (10 mL) was added and the solution was stirred for 10.5 h. The reaction solution was then diluted with 3M NaOH (1.05 mL) and EtOH (3.0 mL) and stirred for 30 min. The solution was diluted with dichloromethane (100 mL), washed with aqueous NaHCO3 (50 mL), and the solvent was removed by rotary evaporation. The residue was purified by flash column chromatography (silica gel, gradient elution using dichloromethane then EtOAc) to give 1.65 g (84%) of the title compound as a white solid. 1H NMR (CDCl3): 7.86 (d, 1H, J=1.9 Hz), 7.76 (dd, 1H, J=8.2 and 1.9 Hz), 7.60 (d, 1H, J=5.2 Hz), 7.49 (d, 1H, J=8.2 Hz), 7.14 (d, 1H, J=5.5 Hz), 3.16 (t, 2H, J=7.0 Hz), 2.85 (s, 3H), 2.48 (t, 3H, J=7.3 Hz), 2.02–1.92 (m, 2H).

reactant | LiOH | 6.66 mmol, 0.280 g | [Li+].[OH-]
reactant | 4-({2-chloro-5-[5-(3-chlorothiophen-2-yl)-[1,2,4]oxadiazol-3-yl]-phenyl}-methyl-amino)-butyric acid methyl ester | 4.76 mmol, 2.03 g | COC(CCCN(C)C1=C(C=CC(=C1)C1=NOC(=N1)C=1SC=CC1Cl)Cl)=O | C18H17Cl2N3O3S
solvent | H2O | 6.0 mL | O | H2O
solvent | THF | 55.0 mL | C1CCOC1 | C4H8O
product | 4-({2-Chloro-5-[5-(3-chlorothiophen-2-yl)-[1,2,4]oxadiazol-3-yl]-phenyl}-methyl-amino)-butyric acid | 1.65 g, 84% | ClC1=C(C=C(C=C1)C1=NOC(=N1)C=1SC=CC1Cl)N(CCCC(=O)O)C | C17H15Cl2N3O3S
